US06762320B2
N-{4-[2-(4-Chloro-phenyl)-ethyl]-phenyl}-malonamide
Prepared in analogy to example 3 from N-{4-[2-(4-chloro-phenyl)-ethyl]-phenyl}-malonamic acid methyl ester and 7M ammonia in methanol. Yield=65%. Colorless solid. MS: m/e=317.1 (M++H).

reactant | N-{4-[2-(4-chloro-phenyl)-ethyl]-phenyl}-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)CCC1=CC=C(C=C1)Cl)=O | C18H18ClNO3
reactant | ammonia | 7M | N | H3N
solvent | methanol | CO | CH4O
product | N-{4-[2-(4-Chloro-phenyl)-ethyl]-phenyl}-malonamide | Yield=65% | ClC1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(CC(=O)N)=O | C17H17ClN2O2
